US07371765B2
Using an analogous procedure to that described in Example 33, 4-chloro-6-cyano-7-(3-(pyrrolidin-1-yl)propoxy)quinoline (100 mg), (prepared as described for the starting material in Example 11), was reacted with 5-amino-2-methylindole (51 mg) to give 6-cyano-4-(2-methylindol-5-ylamino)-7-(3-(pyrrolidin-1-yl)propoxy)quinoline hydrochloride (58 mg, 37%).

reactant | 4-chloro-6-cyano-7-(3-(pyrrolidin-1-yl)propoxy)quinoline | 100 mg | ClC1=CC=NC2=CC(=C(C=C12)C#N)OCCCN1CCCC1 | C17H18ClN3O
reactant | 5-amino-2-methylindole | 51 mg | NC=1C=C2C=C(NC2=CC1)C | C9H10N2
product | 6-cyano-4-(2-methylindol-5-ylamino)-7-(3-(pyrrolidin-1-yl)propoxy)quinoline hydrochloride | 58 mg, 37% | Cl.C(#N)C=1C=C2C(=CC=NC2=CC1OCCCN1CCCC1)NC=1C=C2C=C(NC2=CC1)C | InChI=1S/C26H27N5O.ClH/c1-18-13-19-14-21(5-6-23(19)29-18)30-24-7-8-28-25-16-26(20(17-27)15-22(24)25)32-12-4-11-31-9-2-3-10-31;/h5-8,13-16,29H,2-4,9-12H2,1H3,(H,28,30);1H
